US05693637
e) 6-(1-Pentenyl)-3-(2-methoxycarbonylethyl)-1-(N-t-butylcarbamoyl-3-indolylmethyl)quinazoline-2,4-dione
1.09 g (1.8 mmol) of 6-iodo-3-(2-methoxycarbonylethyl)-1-(N-t-butylcarbamoyl-3-indolylmethyl)quinazoline-2,4-dione and 0.75 g (5.4 mmol) of potassium carbonate were introduced in 15 ml of DMF, and 0.63 g (9.0 mmol) of 1-pentene, 0.58 g (1.8 mmol) of tetrabutylammonium bromide and 10 mg of palladium acetate were added. The mixture was stirred at room temperature for 48 h and then concentrated under reduced pressure. The crude product was chromatographed on silica gel, eluent dichloromethane (2% methanol). 0.69 g (70%) of product, RF 0.12 (dichloromethane+2% methanol) was obtained.

reactant | 6-iodo-3-(2-methoxycarbonylethyl)-1-(N-t-butylcarbamoyl-3-indolylmethyl)quinazoline-2,4-dione | 1.8 mmol, 1.09 g | IC=1C=C2C(N(C(N(C2=CC1)CC1=CN(C2=CC=CC=C12)C(NC(C)(C)C)=O)=O)CCC(=O)OC)=O | C26H27IN4O5
reactant | potassium carbonate | 5.4 mmol, 0.75 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-pentene | 9.0 mmol, 0.63 g | C=CCCC | C5H10
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
catalyst | tetrabutylammonium bromide | 1.8 mmol, 0.58 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | palladium acetate | 10 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 6-(1-Pentenyl)-3-(2-methoxycarbonylethyl)-1-(N-t-butylcarbamoyl-3-indolylmethyl)quinazoline-2,4-dione | 0.69 g, 70% | C(=CCCC)C=1C=C2C(N(C(N(C2=CC1)CC1=CN(C2=CC=CC=C12)C(NC(C)(C)C)=O)=O)CCC(=O)OC)=O | C31H36N4O5
